2143-05-01 08:58:00 Physician Attending Progress Note
Chief Complaint: GIB, hematochezia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo m with htn, dm, presents with hematochezia 1 day post polypectomy
   after screening  colonoscopy.
   24 Hour Events:
   transient hypotension in ed responded to IVF
   transfused 2 units prbc in ed
   gi eval this am--> initiating prep for colon this afternoon
   vagal episode pre-rounds while on commode, tachy to 110's, nauseaus
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   home meds: benacar, glucophage, lisinopril, asa 325 )off X 7 days),
   hctz, norvasc, zocor, mvi
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-5-1**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 119 (75 - 119) bpm
   BP: 128/90(88) {104/62(72) - 129/90(101)} mmHg
   RR: 15 (13 - 17) insp/min
   SpO2: 100%  (2L)
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
           Total In:
           865 mL
   PO:
           TF:
   IVF:
   490 mL
   Blood products:
   375 mL
   Total out:
                                                                      0 mL
                                                                    325 mL
   Urine:
   325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    540 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, uncomfortable/nauseaus
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): 4, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: normal
   Labs / Radiology
   10.9 g/dL
   189 K/uL
   234 mg/dL
   1.2 mg/dL (1.4)
   24 mEq/L
   4.2 mEq/L
   24 mg/dL
   110 mEq/L
   141 mEq/L
   31.0 %
   9.9 K/uL
        [image002.jpg]
                             [**2143-5-1**]  02:45 AM
                             [**2143-5-1**]  06:46 AM
   WBC
   9.9
   Hct
   27.9
   31.0
   Plt
   189
   Cr
   1.2
   Glucose
   234
   Other labs: PT / PTT / INR:13.0/29.9/1.1, Ca++:7.9 mg/dL, Mg++:1.9
   mg/dL, PO4:2.5 mg/dL
   Imaging: no imaging
   Assessment and Plan
   70 yo m w/ htn, dm, presents with GIB/hematochezia 1 day post
   polypectomy after screening colonoscopy.
   # GIB
suspect post-polypectomy bleed
   Q 4 hr h/h, s/p 2 units prbcs, transfuse to keep hct > 30 or active
   bleed (monitor plt, coags, ica if requires massive transfusion)
   2 large bore pIVs
   IV PPI for now
   Gi aware with plan for scope today, initiating prep
   If unable to tolerate prep and ongoing active bleed may need scope
   without prep to intervene
   # syncopal episode this am
   tachycardia
likely vagal in setting of prep and commode use, but with
   dm and htn
   12 lead unchanged/ without acute sttwc
   Serial  cardiac enzymes to r/o ischemia
   IVF bolus/blood
   # nausea
from colon prep, consider NGT
   Zofran
   # hypotension/tachy
holding bp meds in setting of bleed, hold asa
   Responded to fluid and colloid
   # DM
holding oral meds, NPO for procedure,  SSI
   ICU Care
   Nutrition:
   NPO for procedure
   Glycemic Control:  rssi
   Lines:
   18 Gauge - [**2143-5-1**] 04:57 AM
   Prophylaxis:
   DVT:  pneumo boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  40, crit ill

2143-05-02 07:19:00 Physician Resident Progress Note
Chief Complaint: BRBPR
   24 Hour Events:
 OR SENT - At [**2143-5-1**] 02:16 PM
 OR RECEIVED - At [**2143-5-1**] 03:16 PM
   HCT dropped from 29 to 24 from 9am to noon, given 3 units blood and 1 L
   saline, GI scoped and found active arterial bleeding at cecal
   polypectomy site and placed 3 clips. HCT at 6pm 30, MN 27, 5am 25, was
   given 2 units RBC, pt. asymotimatic wuth stable vital signs, no bowel
   movements since came back from cscope.
   negative cardiac enzymes times 2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-5-1**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-5-2**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 75 (63 - 119) bpm
   BP: 128/73(85) {80/32(49) - 128/90(102)} mmHg
   RR: 12 (9 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                  7,210 mL
                                                                     52 mL
   PO:
                  TF:
   IVF:
                                                                  5,710 mL
   Blood products:
                                                                  1,500 mL
                                                                     52 mL
   Total out:
                                                                  2,975 mL
                                                                    400 mL
   Urine:
                                                                    950 mL
                                                                    400 mL
   NG:
                                                                    125 mL
   Stool:
                                                                  1,900 mL
   Drains:
   Balance:
                                                                  4,235 mL
                                                                   -348 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   141 K/uL
   8.8 g/dL
   127 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.5 mEq/L
   20 mg/dL
   117 mEq/L
   143 mEq/L
   25.2 %
   10.4 K/uL
        [image002.jpg]
                             [**2143-5-1**]  02:45 AM
                             [**2143-5-1**]  06:46 AM
                             [**2143-5-1**]  09:18 AM
                             [**2143-5-1**]  11:51 AM
                             [**2143-5-1**]  05:40 PM
                             [**2143-5-1**]  11:27 PM
                             [**2143-5-2**]  05:20 AM
   WBC
   9.9
   10.4
   Hct
   27.9
   31.0
   29.1
   24.4
   30.4
   27.1
   25.2
   Plt
   189
   141
   Cr
   1.2
   1.2
   TropT
   <0.01
   <0.01
   Glucose
   234
   127
   Other labs: PT / PTT / INR:13.7/32.2/1.2, CK / CKMB /
   Troponin-T:80/4/<0.01, Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   70 yom with BRBPR after polypectomy 1 day ago, s/p repeat cscope with 3
   hemoclips placed
   .
   # BRBPR - s/p hemoclips at cecal polypectomy site.
   - continue with q6h hct given drop in HCT this morning, no signs active
   bleeding, no bowel movements since cscope, asymptomatic
   - 2 large bore IVs in place
   - given 2 units PRBC in the ER.  F/u repeat hct, transfuse for hct <25.
   - switch to oral PPI
   - hold ASA
   .
   # HTN - hold antihypertensives for now, on ace, hctz, amlodipine at
   home
   .
   # [**Doctor First Name 2738**] unclear baseline creatinine, currently 1.2.  Maybe prerenal from
   GIB vs. [**1-19**] diabetic nephropathy
   - Renally dose meds, cont to monitor, avoid nephrotoxins.
   .
   # DM - hold glucophage and cover with ISS, restart glucophage at d/c
   # Hyperchol - restart  statin at discharge
   # FEN- NPO
   # ppx - pneumoboots and PPI
   # Dispo - icu until afternoon, if CBC remains stable with no active
   signs bleeding then may call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2143-5-1**] 04:57 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, possible call out in afternoon if CBC stable

2143-05-02 10:26:00 Physician Attending Progress Note
Chief Complaint: LGIB, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  70 yo m w/ htn, dm, presents with GIB/hematochezia 1 day post
   polypectomy after screening colonoscopy.
   24 Hour Events:
 OR SENT - At [**2143-5-1**] 02:16 PM
 OR RECEIVED - At [**2143-5-1**] 03:16 PM
   emergent colonscopy yesterday
 active bleed at polypectomy site with
   clips placed and bleeding resolved
   transfused  3 units prbcs yesterday
   hct
30-27-25
transfused 2 units prbcs this am
   remains asx w/  BP stable and no further brpbr
   History obtained from [**Hospital 85**] Medical records, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-5-2**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 82 (63 - 109) bpm
   BP: 127/60(75) {80/32(49) - 128/76(102)} mmHg
   RR: 22 (9 - 24) insp/min
   SpO2: 98% (RA)
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                  7,210 mL
                                                                    454 mL
   PO:
                  TF:
   IVF:
                                                                  5,710 mL
   Blood products:
                                                                  1,500 mL
                                                                    454 mL
   Total out:
                                                                  2,975 mL
                                                                    400 mL
   Urine:
                                                                    950 mL
                                                                    400 mL
   NG:
                                                                    125 mL
   Stool:
                                                                  1,900 mL
   Drains:
   Balance:
                                                                  4,235 mL
                                                                     54 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : scant at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to):  3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   141 K/uL
   127 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.5 mEq/L
   20 mg/dL
   117 mEq/L
   143 mEq/L
   25.2 %
   10.4 K/uL
        [image002.jpg]
                             [**2143-5-1**]  02:45 AM
                             [**2143-5-1**]  06:46 AM
                             [**2143-5-1**]  09:18 AM
                             [**2143-5-1**]  11:51 AM
                             [**2143-5-1**]  05:40 PM
                             [**2143-5-1**]  11:27 PM
                             [**2143-5-2**]  05:20 AM
   WBC
   9.9
   10.4
   Hct
   27.9
   31.0
   29.1
   24.4
   30.4
   27.1
   25.2
   Plt
   189
   141
   Cr
   1.2
   1.2
   TropT
   <0.01
   <0.01
   Glucose
   234
   127
   Other labs: PT / PTT / INR:13.7/32.2/1.2, CK / CKMB /
   Troponin-T:80/4/<0.01, Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Imaging: no new film
   Microbiology: no new data
   Assessment and Plan
   70 yo m w/ htn, dm, presents with post-polypectomy LGIB
   # GIB
post-polypectomy bleed s/p clipping
   Hemodynamically stable
   now transfusing additional 2 units prbcs for repeat hct of 25 this am,
   monitor in ICU for appropriate bump
   2 large bore pIVs
   Can d/c IV ppi as lGIB, advancing diet (does not take as outpt)
   # syncopal episode
   Insetting of bleeding--? vagal or orthostatic
   -ruled out for MI by card [**Last Name (un) **],
   - HD stable
   # tachycardia
   Resolved with resolution of bleed and adequate blood/fluid resus
   # hypotension/
   Resolved
   continue to hold bp meds in setting of recent bleed, hold asa
   # DM
   holding oral meds
   SSI
   Advancing diet
   ICU Care
   Nutrition:
   Comments: advance diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2143-5-1**] 04:57 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI--d/c as LGIB and progressing diet
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :to home pending repeat h/h
   Total time spent: 40 minutes